US07001897B2
To a solution of 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine (739 mg, 2.01 mmol) (obtained as described in Reference Example 64(3)) in dimethylformamide (20 ml) was added potassium thioacetate (1.38 g, 12.1 mmol) at room temperature, and the mixture was stirred in an oil bath (90° C.) for 3.5 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate=(1:1)→ethyl acetate as the eluant to afford 3-acetylthio-1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]azetidine (698 mg, yield 100%) as a pale brown solid.

reactant | 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine | 2.01 mmol, 739 mg | C(C1=CC=CC=C1)(=O)NCC=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C15H17N3O4S2
reactant | potassium thioacetate | 12.1 mmol, 1.38 g | C(C)(=S)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]azetidine | 698 mg, yield 100% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)CNC(C1=CC=CC=C1)=O | C16H17N3O2S2
